US09328110B2
Potassium carbonate (66.23 g, 0.479 mol), triethylamine (167 mL, 1.20 mol), and ethyl 5-aminovalerate hydrochloride (104 g, 0.575 mol) were added to a mixture of 4-chloro-3-nitroquinoline (100 g, 0.470 mol) in chloroform (1 L). The reaction mixture was stirred at room temperature for 4 hours, then water (200 mL) was added. The mixture was transferred to a separatory funnel and the layers were separated. The organic layer was washed with saturated aqueous sodium bicarbonate and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford 151 g of ethyl 5-[(3-nitroquinolin-4-yl)amino]pentanoate.

reactant | Potassium carbonate | 0.479 mol, 66.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 1.20 mol, 167 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 5-aminovalerate hydrochloride | 0.575 mol, 104 g | Cl.NCCCCC(=O)OCC
reactant | 4-chloro-3-nitroquinoline | 0.470 mol, 100 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
solvent | chloroform | 1 L | C(Cl)(Cl)Cl | CHCl3
solvent | water | 200 mL | O | H2O
product | ethyl 5-[(3-nitroquinolin-4-yl)amino]pentanoate | 151 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCC(=O)OCC | C16H19N3O4
